US08877815B2
To a solution of (R)-methyl 3-(biphenyl-4-yl)-2-(1-(2-ethoxy-2-oxoethyl)cyclopentanecarboxamido)propanoate (135.5 mg, 0.310 mmol) in toluene (3.1 ml), bis(tributyltin) oxide (1.578 ml, 3.10 mmol) was added at room temperature under nitrogen. The reaction mixture was allowed to stir at 90° C. for 15 hr and then 100° C. for 26 hr. The reaction mixture was cooled to room temperature, 10% KFaq (2 ml) was added. The suspension was vigorously stirred for 1 hr, the solution was filtered, and the organic layer and the aqueous layer were separated. To the aqueous layer, 10% citric acid aq was added. The aqueous layer was extracted with EtOAc. The combined organic layer was washed with brine. The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure. The obtained residue was purified by RP-HPLC (SunFire C18, H2O (0.1% TFA)/CH3CN), and the obtained product was treated with 1M LiOH (0.5 ml) in THF (0.5 ml) and MeOH (0.1 ml) for 17 hr. The reaction mixture was acidified with 1M HCl to pH 3. The product was extracted with EtOAc, dried over Na2SO4, filtered, and concentrated under reduced pressure. The obtained residue was purified twice by RP-HPLC (SunFire C18, H2O (0.1% TFA)/CH3CN) and then solidified in DCM/heptane to give (R)-3-(biphenyl-4-yl)-2-(1-(carboxymethyl)cyclopentanecarboxamido)propanoic acid (12.4 mg); Retention time=1.63 minutes (condition A); MS (m+1)=396.0; 1H NMR (400 MHz, DMSO-d6, mixture of rotamers) δ ppm 1.45-1.50 (m, 6H) 1.95-2.00 (m, 2H) 2.39-2.62 (m, 2H) 2.84-3.12 (m, 2H) 4.40-4.46 (m, 1H) 7.30-8.15 (m, 10H) 12.25 (br s, 2H); HRMS (ES+) m/z for C23H25NNaO5 [M+Na]+ calcd 418.16304. found 418.1632.

reactant | (R)-methyl 3-(biphenyl-4-yl)-2-(1-(2-ethoxy-2-oxoethyl)cyclopentanecarboxamido)propanoate | 0.310 mmol, 135.5 mg | C1(=CC=C(C=C1)C[C@H](C(=O)OC)NC(=O)C1(CCCC1)CC(=O)OCC)C1=CC=CC=C1 | C26H31NO5
reactant | bis(tributyltin) oxide | 3.10 mmol, 1.578 ml | CCCC[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 3.1 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-3-(biphenyl-4-yl)-2-(1-(carboxymethyl)cyclopentanecarboxamido)propanoic acid | 12.4 mg | C1(=CC=C(C=C1)C[C@H](C(=O)O)NC(=O)C1(CCCC1)CC(=O)O)C1=CC=CC=C1 | C23H25NO5
